US07855194B2
4-[2-(Piperidin-4-ylamino)-pyrimidin-5-yl]-benzamide dihydrochloride
A solution of 4-[5-(4-carbamoyl-phenyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester (0.31 g, 0.78 mmol) in 4 M HCl in dioxane (40 mL) was stirred at rt for 2 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 298.4 [M+H]+.

reactant | 4-[5-(4-carbamoyl-phenyl)-pyrimidin-2-ylamino]-piperidine-1-carboxylic acid tert-butyl ester | 0.78 mmol, 0.31 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)C1=CC=C(C=C1)C(N)=O | C21H27N5O3
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 4-[2-(Piperidin-4-ylamino)-pyrimidin-5-yl]-benzamide dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C=N1)C1=CC=C(C(=O)N)C=C1 | InChI=1S/C16H19N5O.2ClH/c17-15(22)12-3-1-11(2-4-12)13-9-19-16(20-10-13)21-14-5-7-18-8-6-14;;/h1-4,9-10,14,18H,5-8H2,(H2,17,22)(H,19,20,21);2*1H
